US04886814
N-[2-(4-Carboxyphenyl)ethyl]-2-hydroxy-2-(2-acetylamino-4- methyl-thiazol-5-yl)ethanamine
Prepared analogously to Example 2 by reaction of N-[2-(4-carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-acetylamino-4-methyl-thiazol-5-yl)ethanamine with 1N sodium hydroxide solution. After neutralisation with 1N hydrochloric acid, the mixture is evaporated to dryness, and the residue is recrystallised from 10 ml of water.

reactant | N-[2-(4-carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-acetylamino-4-methyl-thiazol-5-yl)ethanamine | C(=O)(OCC)C1=CC=C(C=C1)CCNCC(C1=C(N=C(S1)NC(C)=O)C)O | C19H25N3O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | N-[2-(4-Carboxyphenyl)ethyl]-2-hydroxy-2-(2-acetylamino-4- methyl-thiazol-5-yl)ethanamine | C(=O)(O)C1=CC=C(C=C1)CCNCC(C1=C(N=C(S1)NC(C)=O)C)O | C17H21N3O4S
